US04659716
8-Fluoro-11-(4-piperidylidene)-6,11-dihydro-5H-benzo-[5,6]cyclohepta[1,2-b]pyridine
8-Fluoro-11-(1-ethoxycarbonyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine (3.6 g, 9.8 mmol.) was refluxed with KOH (4.5 g) in 50 mL of ethanol/water (1:1) for 66 hours under an argon atmosphere. The reaction mixture was poured into a brine solution and extracted twice with ethyl acetate. The extracts were combined and then dried over Na2SO4 and filtered. Solvent was removed to give 2.76 grams (yield=95%) of the title compound, m.p.=133.5°-134.5° C.

reactant | 8-Fluoro-11-(1-ethoxycarbonyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 9.8 mmol, 3.6 g | FC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C(=O)OCC)C1 | C22H23FN2O2
reactant | KOH | 4.5 g | [OH-].[K+]
solvent | ethanol water | 50 mL | C(C)O.O
solvent | brine | [Cl-].[Na+].O
product | 8-Fluoro-11-(4-piperidylidene)-6,11-dihydro-5H-benzo-[5,6]cyclohepta[1,2-b]pyridine | 2.76 grams, yield=95% | FC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCNCC2)C1 | C19H19FN2
